US08349849B2
(R)-2-Amino-2-[2-(4-tert-butyl-cyclohexyloxy)-quinolin-6-yl]-propan-1-ol (20.5 mg, 0.0000575 mol) in chloroform (3 mL, 0.03 mol) and saturated aqueous sodium bicarbonate solution (2 mL, 0.02 mol) and di-tert-butyldicarbonate (18.8 mg, 0.0000862 mol) was added and the mixture was stirred at rt for 24 h. After separation of organic layer, the aqueous layer was extracted with CHCl3. The organic layer was washed with brine and dried over anhydrous Na2SO4. The concentrated residue was chromatographed with MeOH/CH2Cl2 (0-55%) to give tert-butyl (R)-2-(2-(trans-4-tert-butylcyclohexyloxy)quinolin-6-yl)-1-hydroxypropan-2-ylcarbamate (26.0 mg, 100%).

reactant | (R)-2-Amino-2-[2-(4-tert-butyl-cyclohexyloxy)-quinolin-6-yl]-propan-1-ol | 0.0000575 mol, 20.5 mg | N[C@](CO)(C)C=1C=C2C=CC(=NC2=CC1)OC1CCC(CC1)C(C)(C)C | C22H32N2O2
reactant | chloroform | 0.03 mol, 3 mL | C(Cl)(Cl)Cl | CHCl3
reactant | sodium bicarbonate | 0.02 mol, 2 mL | C([O-])(O)=O.[Na+]
reactant | di-tert-butyldicarbonate | 0.0000862 mol, 18.8 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
product | tert-butyl (R)-2-(2-(trans-4-tert-butylcyclohexyloxy)quinolin-6-yl)-1-hydroxypropan-2-ylcarbamate | 26.0 mg, 100% | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC1=NC2=CC=C(C=C2C=C1)[C@@](CO)(C)NC(OC(C)(C)C)=O | C27H40N2O4
